US04256483
2-Chloro-10H-pyridazino[3,2-b]quinazolin-10-one (2.3 g) and sodium methoxide (1.1 g) in 100 ml of methanol was heated at 60° C. for 5 hours. After completion of the reaction, the solvent was removed by distillation, followed by addition of an aqueous solution of acetic acid. The precipitates were collected by filtration and recrystallized from methanol to give 1.6 g of 2-methoxy-10H-pyridazino[3,2-b]-quinazolin-10-one (Compound No. 1). M.P., 222.5°-223.0° C.

reactant | 2-Chloro-10H-pyridazino[3,2-b]quinazolin-10-one | 2.3 g | ClC=1C=CC2=NC=3C=CC=CC3C(N2N1)=O | C11H6ClN3O
reactant | sodium methoxide | 1.1 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-methoxy-10H-pyridazino[3,2-b]-quinazolin-10-one | 1.6 g | COC=1C=CC2=NC=3C=CC=CC3C(N2N1)=O | C12H9N3O2
